US04058550
A mixture of 2.25 g of methyl 4-(n-hexadecylamino)benzoate, 280 mg of glycerol, and 1.37 g of p-toluenesulfonic acid is heated at 180° C for 18 hours and then is partitioned between ether and 3% aqueous carbonate solution. The ether layer is separated, dried, and evaporated to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate.

reactant | methyl 4-(n-hexadecylamino)benzoate | 2.25 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC)C=C1 | C24H41NO2
reactant | p-toluenesulfonic acid | 1.37 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | glycerol | 280 mg | OCC(O)CO | C3H8O3
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
